US08685977B2
4-[4-chloro-3-(trifluoromethyl)phenoxy]-3,6-difluoro-2-methoxy-N-(methylsulfonyl)benzamide
To a solution of 3,4,6-trifluoro-2-methoxybenzaldehyde (Preparation 29, 0.118 g, 0.000280 mol) and potassium carbonate (0.097 g, 0.000702 mol) in dimethyl sulfoxide (3.5 mL) was added 4-chloro-3-(trifluoromethyl)phenol (0.0565 g, 0.000287 mol) portion wise. The reaction mixture was stirred at room temperature under nitrogen for 1 hour. The reaction was diluted with ethyl acetate (15.0 mL) and washed twice with water (10.0 mL). The organic layer was separated, dried with sodium sulphate, filtered and concentrated in vacuo. The residue was dissolved in iso-propyl acetate (3.0 mL) and methanesulfonamide (0.0226 g, 0.000238 mol) and bis(tert-butylcarbonyloxy)iodobenzene (0.145 g, 0.000375 mol) were added The mixture was stirred for 5 minutes before the addition of bis[rhodium(alpha, alpha, alpha′, alpha′-tetramethyl-1,3-benzenedipropionic acid)] (0.005 g, 0.00007 mol). The reaction was stirred at 55° C. under nitrogen for 2 hours. The solvent was concentrated in vacuo to afford a crude oil, which was purified using silica gel column chromatography eluting with 0-50% EtOAc in heptanes to furnish a solid. This was further triturated in heptane:acetone (9:1 mixture, 10.0 mL) to yield the title compound as a pale orange solid (0.025 g, 19%).

reactant | 3,4,6-trifluoro-2-methoxybenzaldehyde | 0.000280 mol, 0.118 g | FC=1C(=C(C=O)C(=CC1F)F)OC | C8H5F3O2
reactant | potassium carbonate | 0.000702 mol, 0.097 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-3-(trifluoromethyl)phenol | 0.000287 mol, 0.0565 g | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
reactant | methanesulfonamide | 0.000238 mol, 0.0226 g | CS(=O)(=O)N | CH5NO2S
reactant | bis(tert-butylcarbonyloxy)iodobenzene | 0.000375 mol, 0.145 g | C(C)(C)(C)C(=O)OC=1C(=C(C=CC1)I)OC(=O)C(C)(C)C | C16H21IO4
solvent | dimethyl sulfoxide | 3.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 15.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | rhodium | [Rh] | Rh
product | 4-[4-chloro-3-(trifluoromethyl)phenoxy]-3,6-difluoro-2-methoxy-N-(methylsulfonyl)benzamide | 0.025 g, 19% | ClC1=C(C=C(OC2=C(C(=C(C(=O)NS(=O)(=O)C)C(=C2)F)OC)F)C=C1)C(F)(F)F | C16H11ClF5NO5S
